US08207147B2
4-(5-Pyridin-4-yl-[1,3,4]oxadiazol-2-ylmethoxy)piperidine-1-carboxylic acid tert-butyl ester
Triethylamine (149 μl, 1.06 mmol was added to stirred solution of 4-{2-oxo-2-[N′-(pyridine-4-carbonyl)hydrazino]ethoxy}piperidine-1-carboxylic acid tert-butyl ester (Preparation 16, 200 mg, 0.53 mmol) and 2-chloro-1,3-dimethyl-2-imidazolinium hexafluorophosphate (147 mg, 0.53 mmol) in CH2Cl2 (10 ml). After 18 h at rt, the solvent was reduced to a small volume and this mixture purified by flash chromatography (EtOAc), affording the title compound: RT=3.42 min; m/z (ES+)=361.1 [M+H]+.

reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | 4-{2-oxo-2-[N′-(pyridine-4-carbonyl)hydrazino]ethoxy}piperidine-1-carboxylic acid tert-butyl ester | 0.53 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC(NNC(=O)C1=CC=NC=C1)=O | C18H26N4O5
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(5-Pyridin-4-yl-[1,3,4]oxadiazol-2-ylmethoxy)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC=1OC(=NN1)C1=CC=NC=C1 | C18H24N4O4
